US07576094B2
A solution of 6-hydroxy-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one (220 mg), formaldehyde (1 mL, 37% in water), dimethylamine solution (1 mL, 2.0 M in methanol), and concentrated HCl water solution (0.1, mL) was heated by microwave to 150° C. for 10 min. The allyl intermediate was treated with excessive NaBH4 in methanol at room temperature to give 6-hydroxy-3,5,7,8-tetramethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one, which was purified by chromatography (silica gel, hexane-ethyl acetate 3%).

reactant | 6-hydroxy-5,7,8-trimethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | 220 mg | OC=1C(=C2C(CC3(CCC3)OC2=C(C1C)C)=O)C | C15H18O3
reactant | formaldehyde | 1 mL | C=O | CH2O
reactant | dimethylamine | 2.0 M, 1 mL | CNC | C2H7N
reactant | HCl water | O.Cl
reactant | NaBH4 | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 6-hydroxy-3,5,7,8-tetramethylspiro[chromene-2,1′-cyclobutan]-4(3H)-one | OC=1C(=C2C(C(C3(CCC3)OC2=C(C1C)C)C)=O)C | C16H20O3
